US04013769
By the procedure of Example 8(i), 3-[(2-aminoethyl)-thiomethyl]isoxazole (from the hydrobromide (3.7 g)) is reacted with 1-nitro-2,2-bis-methylthioethylene (3.5 g) to give 1-nitro-2-methylthio-2-[2-(3-isoxazolylmethylthio)-ethylamino]ethylene (3.6 g) which, on reaction with 2-[(2-aminoethyl)thiomethyl]-3-chloropyridine by the procedure of Example 1 (a) (ii) gives the title product (3.5 g).

reactant | 3-[(2-aminoethyl)-thiomethyl]isoxazole | NCCSCC1=NOC=C1 | C6H10N2OS
reactant | hydrobromide | 3.7 g | Br | BrH
reactant | 1-nitro-2,2-bis-methylthioethylene | 3.5 g | [N+](=O)([O-])C=C(SC)SC | C4H7NO2S2
product | 1-nitro-2-methylthio-2-[2-(3-isoxazolylmethylthio)-ethylamino]ethylene | 3.6 g | [N+](=O)([O-])C=C(NCCSCC1=NOC=C1)SC | C9H13N3O3S2
